US08217168B2
6-methyl-2-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-1,2,4-triazine-3,5(2H,4H)-dione hydrochloride salt (E2)
6-methyl-2-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-1,2,4-triazine-3,5(2H,4H)-dione was dissolved in Et2O and treated with HCl 1N in Et2O to form the title compound 6-methyl-2-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-1,2,4-triazine-3,5(2H,4H)-dione hydrochloride salt (E2, 73.8 mg, 0.171 mmol).

reactant | 6-methyl-2-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-1,2,4-triazine-3,5(2H,4H)-dione | CC=1C(NC(N(N1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C19H21F3N4O2
reactant | HCl | 1N | Cl | ClH
solvent | Et2O | CCOCC | C4H10O
product | 6-methyl-2-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-1,2,4-triazine-3,5(2H,4H)-dione hydrochloride salt | 0.171 mmol, 73.8 mg | Cl.CC=1C(NC(N(N1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | InChI=1S/C19H21F3N4O2.ClH/c1-12-16(27)23-17(28)26(24-12)8-2-7-25-10-15-9-18(15,11-25)13-3-5-14(6-4-13)19(20,21)22;/h3-6,15H,2,7-11H2,1H3,(H,23,27,28);1H/t15-,18+;/m0./s1
